US06166006
A mixture of (3-methoxypyridin-2-yl)-(4-nitrophenyl)methanol (600 mg) and 5% Pd-C (0.06 g) in ethanol (20 ml)was vigorously stirred under hydrogen atmosphere for 3 hours, and the Pd-C was filtered off. The filtrate was concentrated under reduced pressure to give (4-aminophenyl)-(3-methoxypyridin-2-yl)-methanol (483 mg) as pale yellow crystals.

reactant | (3-methoxypyridin-2-yl)-(4-nitrophenyl)methanol | 600 mg | COC=1C(=NC=CC1)C(O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.06 g | [Pd] | Pd
product | (4-aminophenyl)-(3-methoxypyridin-2-yl)-methanol | 483 mg | NC1=CC=C(C=C1)C(O)C1=NC=CC=C1OC | C13H14N2O2
